US06353006B1
To a solution of (4S)-2-(4-carboxy-2-methylphenylimino)-3,4-diisobutyl-1,3-thiazolidine (0.035 g, 0.10 mmol) in CH2Cl2 (5 mL) was added carbonyl diimidazole (0.047 g, 0.29 mmol). The mixture was allowed to stir at room temp. for 2 h, then anh NH3 (approximately 30 drops) was condensed into the solution at −78° C. The resulting mixture was warmed to room temp. overnight, then treated with H2O (20 mL). The aqueous layer was extracted with CH2Cl2 (3×20 mL), sequentially washed with H2O (20 mL) and a saturated NaCl solution (20 mL), dried Na2SO4), and concentrated under reduced pressure. The residue was purified by flash chromatography (40% EtOAc/hexane) to give (4S)-2-(4-carbamoyl-2-methylphenylimino)-3,4-diisobutyl-1,3-thiazolidine as a white solid (0.027 g, 73%): mp 130-131° C.

reactant | (4S)-2-(4-carboxy-2-methylphenylimino)-3,4-diisobutyl-1,3-thiazolidine | 0.10 mmol, 0.035 g | C(=O)(O)C1=CC(=C(C=C1)N=C1SC[C@@H](N1CC(C)C)CC(C)C)C | C19H28N2O2S
reactant | carbonyl diimidazole | 0.29 mmol, 0.047 g | C(=O)(C=1NC=CN1)C=1NC=CN1 | C7H6N4O
reactant | H2O | 20 mL | O | H2O
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
catalyst | NH3 | approximately 30 drops | N | H3N
product | (4S)-2-(4-carbamoyl-2-methylphenylimino)-3,4-diisobutyl-1,3-thiazolidine | 0.027 g, 73% | C(N)(=O)C1=CC(=C(C=C1)N=C1SC[C@@H](N1CC(C)C)CC(C)C)C | C19H29N3OS
